US04736056
In a manner similar to the procedure described in Example B except that a 100 milliliter three-necked Morton flask was used, 10.0 grams (39.6 mmol) of ethyl 3-[(4-nitrophenyl)amino]-3-oxopropanoate, 13.7 grams (99.1 mmol) of anhydrous potassium carbonate, 40 milliliters of anhydrous dimethylformamide and 3.4 milliliters (40.0 mmol) of 1,2-dibromoethane were reacted for a period of 7 days to give 1.6 grams (5.8 mmol) of ethyl 1-(4-nitrophenylaminocarbonyl)cyclopropanecarboxylate as a pale yellow solid having a melting point of 159.0° C.-161.0° C. The total yield was 15 percent. Recrystallization from methylene chloride-hexane furnished 1.39 grams (5.0 mmol) of 1-(4-nitrophenylaminocarbonyl)cyclopropanecarboxylate as pale yellow needles having a melting point of 159.5° C.-161.0° C. NMR analysis of the product indicated the following:

reactant | ethyl 3-[(4-nitrophenyl)amino]-3-oxopropanoate | 39.6 mmol, 10.0 grams | [N+](=O)([O-])C1=CC=C(C=C1)NC(CC(=O)OCC)=O | C11H12N2O5
reactant | potassium carbonate | 99.1 mmol, 13.7 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 1,2-dibromoethane | 40.0 mmol, 3.4 milliliters | BrCCBr | C2H4Br2
solvent | dimethylformamide | 40 milliliters | CN(C=O)C | C3H7NO
product | ethyl 1-(4-nitrophenylaminocarbonyl)cyclopropanecarboxylate | 5.8 mmol, 1.6 grams, yield was 15 percent | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)C1(CC1)C(=O)OCC | C13H14N2O5
